US06521607B1
A solution of [3-(3-trifluoromethoxyphenoxy)phenyl][[3-(1,1,2,2-tetrafluoroethoxy)-phenyl]methyl]amine (1.8 g, 3.7 mmol) from EX-19C, R-(+)-1,1,1-trifluoro-2,3-epoxy-propane (0.57 g, 5.2 mmol), and ytterbium (III) trifluoromethanesulfonate (0.24 g, 0.38 mmol) in 2.0 mL of acetonitrile was heated at 40° C. in a sealed glass tube overnight. At this time reverse phase HPLC analysis indicated that the reaction was only 50% complete. Additional ytterbium (III) trifluoromethanesulfonate and R-(+)-1,1,1-trifluoro-2,3-epoxypropane (0.26 g, 2.3 mmol) were added to the reaction mixture and again heated at 40° C. in a sealed gass tube for 48 h. The reaction mixture was cooled to room temperature then diluted with water and methylene chloride and extracted. The organic layer was washed with brine, dried over MgSO4, and concentrated in vacuo. The crude product was purified by reverse phase HPLC eluting with 30% to 90% acetonitrile in water to afford 1.25 g (23%) of the desired (2R)-3-[[3-(3-trifluoromethoxyphenoxy) phenyl][[3-(1,1,2,2-tetrafluoroethoxy)phenyl]methyl]amino]-1,1,1-trifluoro-2-propanol product as yellow-brown oil (90% ee by chiral HPLC analysis). HRMS calcd. for C25H19F10NO4: 588.1233 [M+H]+, found: 588.1225. 1H NMR (CDCl3) δ 7.35-7.18 (m, 3H), 7.12 (t, 2H), 7.01 (s, 1H), 6.93 (d, 1H), 6.85 (d, 1H), 6.82 (s, 1H), 6.56 (dd, 1H), 6.47 (dd, 1H), 6.41 (s, 1H), 5.88 (t, 1H), 4.66 (s, 2H), 4.35 (m, 1H), 3.86 (d, 1H), 3.59 (dd, 1H), 2.02 (s, 1H). 19F NMR (CDCl3) δ -58.31 (s, 3F), -79.24 (d, 3F), -88.57 (m, 2F), -137.16 (dt, 2F).

reactant | [3-(3-trifluoromethoxyphenoxy)phenyl][[3-(1,1,2,2-tetrafluoroethoxy)-phenyl]methyl]amine | 3.7 mmol, 1.8 g | FC(OC=1C=C(OC=2C=C(C=CC2)NCC2=CC(=CC=C2)OC(C(F)F)(F)F)C=CC1)(F)F | C22H16F7NO3
reactant | ytterbium (III) trifluoromethanesulfonate | 0.38 mmol, 0.24 g | FC(S(=O)(=O)[O-])(F)F.[Yb+3].FC(S(=O)(=O)[O-])(F)F.FC(S(=O)(=O)[O-])(F)F
reactant | acetonitrile | 2.0 mL | C(C)#N | C2H3N
solvent | water | O | H2O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | (2R)-3-[[3-(3-trifluoromethoxyphenoxy) phenyl][[3-(1,1,2,2-tetrafluoroethoxy)phenyl]methyl]amino]-1,1,1-trifluoro-2-propanol | 1.25 g, 23% | FC(OC=1C=C(OC=2C=C(C=CC2)N(C[C@H](C(F)(F)F)O)CC2=CC(=CC=C2)OC(C(F)F)(F)F)C=CC1)(F)F | C25H19F10NO4
